US05554746
N-1-Carboxyethylthymine
To a suspension of thymine (0.317 mole) and potassium carbonate (0.634 mole) in dimethylformamide (900 ml) is added methyl bromopropionate (0.634 mole) and the mixture is stirred vigorously overnight under an atmosphere of nitrogen. The mixture is filtered, washed with ether and evaporated to dryness in vacuo. The solid residue is treated with water (300 ml) and 4N hydrochloric acid (12 ml), stirred for 20 minutes at 0° C filtered and washed with water (2×100 ml). The precipitate is treated with water and 2N sodium hydroxide (60 ml), and is boiled for 10 minutes. The mixture is cooled at 0° C., filtered and the title compound is precipitated by the addition of 4N hydrochloric acid (70 ml) to afford, after filtration, the title compound.

reactant | thymine | 0.317 mole | N1C(=O)NC(=O)C(C)=C1 | C5H6N2O2
reactant | potassium carbonate | 0.634 mole | C([O-])([O-])=O.[K+].[K+]
reactant | methyl bromopropionate | 0.634 mole | BrC(C(=O)OC)C | C4H7BrO2
solvent | dimethylformamide | 900 ml | CN(C=O)C | C3H7NO
product | N-1-Carboxyethylthymine | C(=O)(O)C(C)N1C(=O)NC(=O)C(C)=C1 | C8H10N2O4
